US05223498
A mixture of 5-fluoro-2-morpholino aniline (6 g) and thiophosgene (5.2 g) in dioxan (20 ml) and water (40 ml) was stirred at 0° C. for 15 minutes and at room temperature for one hour to yield a residue which was extracted with dichloromethane to give an oil which was purified by chromatography on a silica gel column (mesh 100-200) using a 1:9 mixture of ethylacetate and hexane as eluant to give 5-fluoro-2-morpholinophenyl isothiocyanate as an oil.

reactant | 5-fluoro-2-morpholino aniline | 6 g | FC=1C=CC(=C(N)C1)N1CCOCC1 | C10H13FN2O
reactant | thiophosgene | 5.2 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | 5-fluoro-2-morpholinophenyl isothiocyanate | FC=1C=CC(=C(C1)N=C=S)N1CCOCC1 | C11H11FN2OS
